US08871304B2
Into a 300 mL-volume flask equipped with a stirrer and a thermometer were placed 20.6 g (143 mmol) of 2-(dimethylamino)ethane chloride hydrochloride and 74.0 g (859 mmol) of t-pentylamine. And then, the mixture was heated to reflux for 8 hours. After the completion of the reaction, the reaction mixture was filtrated and washed with 100 ml of hexane twice, and the hexane layer was concentrated under reduced pressure. The resultant concentrate was distilled under reduced pressure (120° C., 11.0 kPa), to provide 13.5 g of 1-t-pentylamino-2-dimethylaminoethane. (Isolation yield: 60%)

reactant | 2-(dimethylamino)ethane chloride hydrochloride | 143 mmol, 20.6 g | Cl.[Cl-].CN(CC)C
reactant | t-pentylamine | 859 mmol, 74.0 g | C(C)(C)(CC)N | C5H13N
product | 1-t-pentylamino-2-dimethylaminoethane | 13.5 g, yield: 60% | C(C)(C)(CC)NCCN(C)C | C9H22N2
